*
.SUBCKT BAS70-07 1 2
* The Resistors do not
* reflect physical devices.
* Instead they improve modeling
* in the reverse mode of
* operation.
R1 1 2 1.409E+09
D1 1 2 BAS70

.MODEL BAS70 D
+(
+ IS = 3.22E-09
+ N = 1.018
+ BV = 77
+ IBV = 1.67E-07
+ RS = 20.89
+ CJO = 1.655E-12
+ VJ = 0.349
+ M = 0.3583
+ FC = 0.5
+ TT = 0
+ EG = 0.69
+ XTI = 2
+)
.ENDS
*